US08198456B2
8.2 g (19.59 mmol) 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-3-(ethylamino)-1H-indazole-1-carboxylic acid tert-butyl ester, from Synthetic Example 19, was stirred in 147 mL of a 4 M solution of HCl in dioxane, at 55° C. (bath temperature) for 2 hours. On cooling, the volatiles were removed under vacuum to furnish 4-[3-(ethylamino)-1H-indazol-5-yl]-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile, hydrochloride salt (Cpd. No. 161, Table 2). The hydrochloride salt was converted to the free base as follows: the hydrochloride salt was suspended in a mixture of EtOAc and 2 M aqueous sodium hydroxide and heated on a steam bath until the solid completely dissolved. On cooling, the mixture was extracted and the organic phase was washed successively with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated under vacuum. The resulting crude product was purified by extracting twice with hot EtOAc (each time stirred in hot EtOAc, allowed to cool and filtered). The product was dried under vacuum to afford 4-[3-(ethylamino)-1H-indazol-5-yl]-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile (4.6 g, 73.7%) (Cpd. No. 121, Table 2). 1H-NMR (DMSO-D6, 400 MHz): δ=11.38 (br s, 1H), 9.44 (br s, 1H), 7.51 (m, 1H), 7.20 (d, 1H), 7.12 (dd, 1H), 5.91 (t, 1H), 4.34 (s, 1H), 3.21-3.27 (m, 2H), 2.01 (s, 6H), 1.19 (t, 3H) ppm. m.p.=247.6° C.

reactant | 5-(3,5-dicyano-1,4-dihydro-2,6-dimethyl-4-pyridinyl)-3-(ethylamino)-1H-indazole-1-carboxylic acid tert-butyl ester | 19.59 mmol, 8.2 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCC | C23H26N6O2
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[3-(ethylamino)-1H-indazol-5-yl]-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarbonitrile, hydrochloride salt | Cl.C(C)NC1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | InChI=1S/C18H18N6.ClH/c1-4-21-18-13-7-12(5-6-16(13)23-24-18)17-14(8-19)10(2)22-11(3)15(17)9-20;/h5-7,17,22H,4H2,1-3H3,(H2,21,23,24);1H
